US06384220B2
A solution of 3-{2(R)-biphenyl-4-yl-3-cyclopentyl-propionyl}-4(S)-isopropyl-oxazolidin-2-one (127.4 mg, 0.31 mmol) in tetrahydrofuran (1.3 ml,) and water (300 μL) was cooled to 0° C. and then sequentially treated with a 30% aqueous hydrogen peroxide solution (39 μL, 1.25 mmol ) and an 0.8M aqueous lithium hydroxide solution (628 μL, 0.50 mmol). The reaction mixture was allowed to warm to 25° C. where it was stirred for 7 h. At this time, the reaction mixture was treated with solution of sodium sulfite (158.4 mg, 1.26 mmol) in water (952 μL). The reaction mixture was stirred at 0° C. for 30 min and then concentrated in vacuo to remove tetrahydrofuran. The resulting aqueous layer was extracted with diethyl ether (1×100 mL). The aqueous layer was then acidified to pH=1 with a 10% aqueous hydrochloric acid solution and extracted with ethyl acetate (1×100 mL). The organic extract was washed with water, dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 2(R)-biphenyl-4-yl-3-cyclopentylpropionic acid (43 mg, 46%) as a white solid: mp 136-137° C.; EI-HRMS m/e calcd for C20H22O2 (M+) 294.1620, found 294.1618.

reactant | 3-{2(R)-biphenyl-4-yl-3-cyclopentyl-propionyl}-4(S)-isopropyl-oxazolidin-2-one | 0.31 mmol, 127.4 mg | C1(=CC=C(C=C1)[C@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC1CCCC1)C1=CC=CC=C1 | C26H31NO3
reactant | hydrogen peroxide | 1.25 mmol, 39 μL | OO | H2O2
reactant | lithium hydroxide | 0.50 mmol, 0.8M, 628 μL | [OH-].[Li+]
reactant | sodium sulfite | 1.26 mmol, 158.4 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 1.3 ml | O1CCCC1 | C4H8O
solvent | water | 300 μL | O | H2O
solvent | water | 952 μL | O | H2O
product | 2(R)-biphenyl-4-yl-3-cyclopentylpropionic acid | 43 mg, 46% | C1(=CC=C(C=C1)[C@H](C(=O)O)CC1CCCC1)C1=CC=CC=C1 | C20H22O2
